US07981903B2
To a solution of 1-[3-(methyloxy)-4-nitrophenyl]piperazine (0.5 g, 2.11 mmol) and triethylamine (1.27 g, 12.63 mmol, Aldrich) in dichloromethane (25 mL) was added acetic anhydride (0.64 g, 6.35 mmol, Aldrich). After stirring 3 hrs at rt, the reaction was washed with water (25 mL), organic layer adsorbed to silica gel and purified by column chromatography (dichloromethane to 10% methanol/dichloromethane) to give 1-acetyl-4-[3-(methyloxy)-4-nitrophenyl]piperazine (0.4 g, 68%). ESIMS (M+H)+=280.

reactant | 1-[3-(methyloxy)-4-nitrophenyl]piperazine | 2.11 mmol, 0.5 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCNCC1 | C11H15N3O3
reactant | triethylamine | 12.63 mmol, 1.27 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 6.35 mmol, 0.64 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-acetyl-4-[3-(methyloxy)-4-nitrophenyl]piperazine | 0.4 g, 68% | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C13H17N3O4
